US06043352
2-[2-(dimethylamino)ethylmercapto]ethanol
2-(Dimethylamino)ethanethiol hydrochloride (Aldrich) is treated with NaOH (0.2N) in ethanol (95%). To this slurry, 2-bromoethanol (1.2 eq.) is added and the mixture is refluxed for 2 hours. The reaction mixture is cooled, filtered and concentrated. The resultant residue is purified by silica gel flash column chromatography to give the title compound.

reactant | 2-(Dimethylamino)ethanethiol hydrochloride | Cl.CN(CCS)C
reactant | NaOH | 0.2N | [OH-].[Na+]
reactant | 2-bromoethanol | 1.2 eq. | BrCCO | C2H5BrO
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-(dimethylamino)ethylmercapto]ethanol | CN(CCSCCO)C | C6H15NOS
